US07205409B2
(2S)-1-{(5R/S)-5-(2-(4-chlorophenyl)ethyl)-L-prolyl}pyrrolidine-2-carbonitrile
The title compound was synthesized by substituting 2-(2-(S)-cyano-pyrrolidine-1-carbonyl)-5-(R/S)-(2-m-tolyl-vinyl)-pyrrolidine-1-carboxylic acid tert-butyl ester in Example 36 with 2-(2-(S)-cyano-pyrrolidine-1-carbonyl)-5-(R/S)-(2-p-chlorophenyl-vinyl)-pyrrolidine-1-carboxylic acid tert-butyl ester. 1H NMR (400 MHz, MeOH-d4) δ 1.83 (m, 1H), 1.98 (m, 2H), 2.24 (m, 6H), 2.71 (m, 4H), 3.64 (t, J=6.60 Hz, 2H), 3.73 (m, 1H), 4.59 (t, J=8.29 Hz, 1H), 7.25 (d, J=8.29 Hz, 2H), 7.31 (d, J=8.29 Hz, 2H) ppm. MS (ESI) m/z 332, 334 (M+H)+.

reactant | 2-(2-(S)-cyano-pyrrolidine-1-carbonyl)-5-(R/S)-(2-m-tolyl-vinyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1C=CC=1C=C(C=CC1)C)C(=O)N1[C@@H](CCC1)C#N | C24H31N3O3
reactant | 2-(2-(S)-cyano-pyrrolidine-1-carbonyl)-5-(R/S)-(2-p-chlorophenyl-vinyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1C=CC1=CC=C(C=C1)Cl)C(=O)N1[C@@H](CCC1)C#N | C23H28ClN3O3
product | (2S)-1-{(5R/S)-5-(2-(4-chlorophenyl)ethyl)-L-prolyl}pyrrolidine-2-carbonitrile | ClC1=CC=C(C=C1)CCC1CC[C@H](N1)C(=O)N1[C@@H](CCC1)C#N | C18H22ClN3O
